US09358222B2
Distilled THF (10 mL) was added to 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)isoindolin-1-one (200 mg, 0.52 mmol), thionyl chloride (136.8 mg, 1.15 mmol, 0.08 mL) and catalytic DMF (3 drops) as for general procedure B1. 3-Chloro-3-(4-chlorophenyl)-2-(4-nitrobenzyl)isoindolin-1-one was produced as a viscous yellow oil (208.5 mg, 0.52 mmol) which was used immediately without further purification. Distilled THF (3 mL) was added to 3-chloro-3-(4-chlorophenyl)-2-(4-nitrobenzyl)isoindolin-1-one (208.5 mg, 0.52 mmol) and the resultant solution added dropwise to cis-cyclopentene diol (260 mg, 2.6 mmol) and dried potassium carbonate (359 mg, 2.6 mmol) in distilled THF (3 mL) as for general procedure B1. Removal of the solvent yielded the crude product as a yellow oil (262 mg). The sample was purified by flash column chromatography (EtOAc:Petrol, 40:60) to yield the title product as a yellow viscous oil. (211 mg, 44.4 mmol, 85%). 1H NMR: (300 MHz, DMSO) δ ppm 1.34, (m, 1H, H15H16) 1.74, 2.2 (m, 1H, H15/H16) 4.22 (dt, 1H, H16) 4.40 (d, 1H, J=15.99 Hz, H9/H9′), 4.63 (d, 1H, J=16.02 Hz, H9/H9′), 4.93, 4.98, (dd, 1H, H17/H18), 5.15, 5.29 (dd, 1H, H17/H18), 5.76 (m, 1H, H14) 7.26 (m, 7H, H1-H5, H10, H13), 7.66 (m, 2H, H6-H7), 7.88 (d, 1H, H8), 8.00 (m, 2H, H11, H12).

reactant | 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)isoindolin-1-one | 0.52 mmol, 200 mg | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | thionyl chloride | 1.15 mmol, 0.08 mL, 136.8 mg | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-Chloro-3-(4-chlorophenyl)-2-(4-nitrobenzyl)isoindolin-1-one | ClC1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)Cl | C21H14Cl2N2O3
